US07838675B2
i) 4-Ethanesulfonylpiperazine-1-sulfonamide
To a solution of 1-ethanesulfonylpiperazine (1.0 g) in dioxane (10 ml) was added sulfamide (0.51 g). The reaction was then heated at 100° C. for 24 h. The reaction was allowed to cool before being concentrated in vacuo. The residue was stirred in Et2O for 4 h and the mixture filtered to give the product as a white solid. Yield: 1.3 g.

reactant | 1-ethanesulfonylpiperazine | 1.0 g | C(C)S(=O)(=O)N1CCNCC1 | C6H14N2O2S
reactant | sulfamide | 0.51 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-Ethanesulfonylpiperazine-1-sulfonamide | C(C)S(=O)(=O)N1CCN(CC1)S(=O)(=O)N | C6H15N3O4S2
